US08071584B2
3-(1,1-Dioxidotetrahydro-2H-thiopyran-4-yl)-5-(5-formyl-3-thienyl)-1H-indole-7-carboxamide
5-bromo-3-(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxamide (150 mg, 0.4 mmol), 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-thiophenecarbaldehyde (115 mg, 0.48 mmol, 1.2 eq), PdCl2(dppf)-CH2Cl2 adduct (29 mg, 0.04 mmol, 0.09 eq), and potassium carbonate (170 mg, 1.2 mmol, 3 eq) were diluted in dioxane (3 mL) and water (1.5 mL) in a 2-5 mL microwave tube. The mixture was degassed by bubbling argon through for 5 minutes, then the reaction was heated in a microwave oven under regular absorption at 10° C. for 5 minutes. The reaction mixture was filtered through a thiol SPE cartridge, washing well with acetone, and the solvent was removed in vacuo. The crude residue was triturated from diethyl ether to give a pink solid. Minor impurities were present, but this material was suitable for use in the reductive amination step as is (210 mg, 0.52 mmol, 129%).

reactant | 5-bromo-3-(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxamide | 0.4 mmol, 150 mg | BrC=1C=C2C(=CNC2=C(C1)C(=O)N)C1CCS(CC1)(=O)=O | C14H15BrN2O3S
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-thiophenecarbaldehyde | 0.48 mmol, 115 mg, 1.2 eq | CC1(OB(OC1(C)C)C=1C=C(SC1)C=O)C | C11H15BO3S
reactant | potassium carbonate | 1.2 mmol, 170 mg, 3 eq | C([O-])([O-])=O.[K+].[K+]
reactant | water | 1.5 mL | O | H2O
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) CH2Cl2 | 0.04 mmol, 29 mg, 0.09 eq | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 3-(1,1-Dioxidotetrahydro-2H-thiopyran-4-yl)-5-(5-formyl-3-thienyl)-1H-indole-7-carboxamide | O=S1(CCC(CC1)C1=CNC2=C(C=C(C=C12)C1=CSC(=C1)C=O)C(=O)N)=O | C19H18N2O4S2
